Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],0.3077623833800001
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15].[H:1],4.809090708759999
[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.420436223209999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],4.601061507869999
[C:3]([H:4])#[C:5][C:6]([H:7])([O:8][H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([O:8][H:9])[O:10][H:11],-3.33032061986
[H:10].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:9]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-4.64574373065
[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[O:13][H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.68334487247
[C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-5.16016119499
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4],1.26704043323
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1],4.38654318054
[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3][H:4].[O:1]=[C:2][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],5.539739045269999
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12]1>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12],2.53808168034
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([C:3]([H:4])[C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.4546855863
[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4][H:5]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.23795610721
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],2.5489037589900003
[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]#[C:7][H:8]>>[C:1]#[C:2][C@:4]([O:3])([H:5])[C:6]#[C:7][H:8],1.6566720767200005
[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8],-1.24921670163
[H:1][O:2][C:3]1[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]1[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]/[C:9](=[C:4]/[C:5]([H:6])([H:7])[H:8])[C:10]([H:11])([H:12])[H:13],1.34485456808
[H:1][C:2][O:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-4.1899061774
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],1.99476049847
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[O:11].[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12],-3.97485221735
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:12][H:13].[H:11]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-3.7577614974
[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.19350983426
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7].[H:8]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],-2.22420375441
[O:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.54687626602
[O:1]=[C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])[H:10],0.293659729733
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3],5.7815103395700005
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[O:2],2.09349256
[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:11]([H:10])([H:12])[H:13])[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]1[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-2.4429841856400003
[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:8])[H:9].[O:7],3.16749376947
